US07618978B2
3-Hydroxymethyl-7-methoxymethyl-2-azabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
Add di-isobutylalluminium hydrate (1 M in hexanes, 14.6 mL, 14.6 mmol) to a solution of 7-methoxymethyl-2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester (1.53 g, 4.88 mmol) in dichloromethane (20 mL) cooled in an ice bath. Stir the mixture at room temperature for 3 h. Quench with saturated aqueous sodium tartrate and stir until the solution becomes clear. Extract the mixture with ethyl acetate (3×50 mL), wash the combined extract with saturated aqueous sodium tartrate, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 1:1 ethyl acetate:hexanes) to give the title compound (0.780 g, 59%).

reactant | 7-methoxymethyl-2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | 4.88 mmol, 1.53 g | C(C)OC(=O)C1N(C2CCC1C2COC)C(=O)OC(C)(C)C | C16H27NO5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-Hydroxymethyl-7-methoxymethyl-2-azabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.780 g, 59% | C(C)(C)(C)OC(=O)N1C2CCC(C1CO)C2COC | C14H25NO4
